US08871792B2
(R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic Acid 2-Methoxy-Ethyl Ester
1-Bromo-2-methoxyethane (12.2 μL, 129 μmol) was added to a mixture of (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid (20.0 mg, 43 μmol) and DIPEA (45.1 μL, 259 μmol) in acetone (1.0 mL, 14 mmol). The resulting mixture was heated at 60° C. for 4 hours. NaI (19.4 mg, 129 μmol) was added and the reaction was monitored for 2 hours. Additional 1-bromo-2-methoxyethane (3 eq.), DIEA (4 eq.), and NaI (3 eq.) were added and the heating continued overnight. Additional 1-bromo-2-methoxyethane (3 eq.), NaI (3 eq.), and DIEA (3 eq.) were added and heating continued overnight. The mixture was then concentrated, and the residue was dissolved in AcOH (1.5 mL), filtered and purified by reverse phase preparative HPLC to yield the title compound (2.6 mg, purity 99%). MS m/z [M+H]+ calc'd for C24H25ClFN3O7, 522.14. found 522.4.

reactant | 1-Bromo-2-methoxyethane | 129 μmol, 12.2 μL | BrCCOC | C3H7BrO
reactant | (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid | 43 μmol, 20.0 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=CC(=NO1)OC)C[C@H](C(=O)O)O)F | C21H19ClFN3O6
reactant | DIPEA | 259 μmol, 45.1 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | acetone | 14 mmol, 1.0 mL | CC(=O)C | C3H6O
reactant | NaI | 129 μmol, 19.4 mg | [Na+].[I-]
reactant | 1-bromo-2-methoxyethane | 3 eq. | BrCCOC | C3H7BrO
reactant | DIEA | 4 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | NaI | 3 eq. | [Na+].[I-]
reactant | 1-bromo-2-methoxyethane | 3 eq. | BrCCOC | C3H7BrO
reactant | NaI | 3 eq. | [Na+].[I-]
reactant | DIEA | 3 eq. | CCN(C(C)C)C(C)C | C8H19N
product | (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic Acid 2-Methoxy-Ethyl Ester | 2.6 mg | COCCOC([C@@H](CN(NC(=O)C1=CC(=NO1)OC)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C24H25ClFN3O7
